US04493943
In like manner as in Preparation Example 1, 200 g of this 1-phenyl-1-(4'-tert-butylphenyl)ethane was reacted with acetyl chloride to obtain 1-(4-acetylphenyl)-1-(4'-tert-butylphenyl)ethane. Also in like manner as in Preparation Example 1, this compound was converted into an alcohol by using sodium borohydride, and the product was then dehydrated with potassium hydrogensulfate to obtain 1-(4-tert-butylphenyl)-1-(4'-vinylphenyl)ethane in a yield of 69.2% (b.p. 171° C./10 mmHg, 130° C./2 mmHg).

reactant | 1-phenyl-1-(4'-tert-butylphenyl)ethane | 200 g | C1(=CC=CC=C1)C(C)C1=CC=C(C=C1)C(C)(C)C | C18H22
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 1-(4-acetylphenyl)-1-(4'-tert-butylphenyl)ethane | C(C)(=O)C1=CC=C(C=C1)C(C)C1=CC=C(C=C1)C(C)(C)C | C20H24O
